US20010027196A1
2-Amino-4-(2-morpholin-4-yl-ethylamino)-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and 4-(2-aminoethyl)morpholine in DME. ES-MS m/e (%): 325 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-morpholin-4-yl-ethylamino)-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCN1CCOCC1)C#N)C1=CC=CC=C1 | C17H20N6O
